US04075227
To 80 ml. of N,N-dimethylformamide (DMF) were added 10.0 grams (0.039 mole) of 3-(4-hydroxyphenyl)-6-methoxybenzothiophene. The mixture was cooled to 0° C., and 6.6 grams (0.039 mole) of N-(2-chloroethyl)pyrrolidine hydrochloride were added followed by 2.81 grams (0.117 mole) of sodium hydride added in small portions. Effervescence developed, and, when the effervescence had ceased, the mixture was heated at 95° C. for 14 hours. To the mixture then were added 10 ml. of ethanol, and the solvents of the resulting mixture then were evaporated. The resulting residue was dissolved in a mixture of water and ethyl acetate. The ethyl acetate layer was separated from the aqueous layer and was washed with 25 ml. of sodium chloride solution. The ethyl acetate solution then was extracted twice with 40 ml. of 1N hydrochloric acid. The acid layer was separated and rendered alkaline by addition of 50 ml. of 2N sodium hydroxide. The alkaline mixture then was extracted with 250 ml. of ethyl acetate. The ethyl acetate layer was separated, dried over magnesium sulfate, and evaporated to give 3-[4-(2-pyrrolidinoethoxy)phenyl]-6-methoxybenzothiophene as an oil. The oil was dissolved in methanol and treated with excess methanolic hydrochloric acid. The mixture was evaporated, and the solid residue was recrystallized from methanol to give 11.6 grams (76 percent) of the hydrochloride salt of 3-[4-(2-pyrrolidinoethoxy)phenyl]-6-methoxybenzothiophene, m.p. 200°-202° C.

reactant | 3-(4-hydroxyphenyl)-6-methoxybenzothiophene | 0.039 mole, 10.0 grams | OC1=CC=C(C=C1)C1=CSC2=C1C=CC(=C2)OC | C15H12O2S
reactant | N-(2-chloroethyl)pyrrolidine hydrochloride | 0.039 mole, 6.6 grams | Cl.ClCCN1CCCC1
reactant | sodium hydride | 0.117 mole, 2.81 grams | [H-].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-[4-(2-pyrrolidinoethoxy)phenyl]-6-methoxybenzothiophene | N1(CCCC1)CCOC1=CC=C(C=C1)C1=CSC2=C1C=CC(=C2)OC | C21H23NO2S
